US06258901B1
To 536.3 g of a p-vinylphenol fraction obtained by the same vacuum flash distillation as in Example 1, containing 32.9% of p-vinylphenol, 49.1% of p-ethylphenol, 1.6% of phenol, 7.0% of p-cresol and 9.4% of water were added 160.9 g of methanol as a solvent and 5.36 g of dimethyl 2,2′-azobisisobutyrate as an initiator. The resulting mixture was subjected to a polymerization reaction at 80° C. for 5 hours. The reaction mixture was treated in the same manner as in Example 1 to obtain 98.2 g of a poly(p-vinylphenol). The polymer had a Mw of 8,800, a Mn of 5,200 and a light transmittance at 248 nm, of 76.9%.

reactant | p-vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | p-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | dimethyl 2,2′-azobisisobutyrate | 5.36 g | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
solvent | methanol | 160.9 g | CO | CH4O
solvent | water | O | H2O
product | poly(p-vinylphenol) | 98.2 g | C#CC1=CC=C(C=C1)O | C8H6O
